US08431596B2
({4-[2-(Cyclopropanecarbonyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-5-yl]-phenylcarbamoyl}-methyl)-carbamic acid tert-butyl ester
Cyclopropanecarboxylic acid [5-(4-amino-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide (0.05 g, 0.17 mmol) was dissolved in dimethylacetamide (1 mL), diisopropylethylamine (0.036 mL, 0.204 mmol) and N-(tert-butoxycarbonyl)glycine (0.036 g, 0.204 mmol) were added followed by 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethylaminium hexafluorophosphate (0.078 g, 0.204 mmol) and the mixture was heated to 150° C. for 10 min in a microwave. The reaction mixture was transferred to a vial and purified by prep LCMS. LCMS method: 1, RT: 4.08 min, MI: 451 [M+1].

reactant | Cyclopropanecarboxylic acid [5-(4-amino-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | 0.17 mmol, 0.05 g | NC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C16H15N5O
reactant | diisopropylethylamine | 0.204 mmol, 0.036 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(tert-butoxycarbonyl)glycine | 0.204 mmol, 0.036 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
solvent | dimethylacetamide | 1 mL | CC(=O)N(C)C | C4H9NO
product | ({4-[2-(Cyclopropanecarbonyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-5-yl]-phenylcarbamoyl}-methyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(NC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2)=O)=O | C23H26N6O4
